US06194403B1
6,9-Dichloro- 1,2,3,4-tetrahydroacridine (3b)
To a mixture of 4-chloroanthranilic acid (8.58 g, 50.0 mmol) and cyclohexanone (5.18 mL, 50.0 mmol) was added carefully with 20 mL of phosphorus oxychloride at ice bath. The resulting mixture was heated under reflux for 2 hours. The mixture was cooled at room temperature and concentrated and then diluted with CHCl3. The resulting mixture was poured into a mixture of crashed ice and aqueous K2CO3 solution. The organic layer was washed with saturated brine, dried over anhydrous K2CO3 and concentrated in vacuo to give 12.6 g (99%) of a yellow solid. A small portion of the solid was recrystallized with acetone for characterization: mp 85-87° C. (lit. 86.5-87° C. ); 1H NMR (300 MHz, CDCl3) 8.88 (s, 1H, Ar—H), 8.27 (dd, J=7.1, 1.4 Hz, 1H, Ar—H), 7.74 (dd,J=7.1, 1.9 Hz, 1H, Ar—H), 3.64 (s br, 2H, CH2), 3.09 (s br, 2H, CH2), 2.02 (s br, 4H, CH2CH2); 13C-NMR (75 MHz, CDCl3)159.1, 150.9, 141.4, 138.2, 131.7, 131.5, 1264, 121.6, 30.0, 27.5, 21.9, 21.1; EIMS: 255 (M+4+, 13), 253 (M+2+, 66), 251 (M+, 100), 218 (M-HCl+2+, 20), 216 (M-HCl+, 60), HR-EIMS: exact calc'd for C13H11NCl2 [M]+251.0271, found 251.0277.

reactant | 4-chloroanthranilic acid | 50.0 mmol, 8.58 g | ClC=1C=C(C(C(=O)O)=CC1)N | C7H6ClNO2
reactant | cyclohexanone | 50.0 mmol, 5.18 mL | C1(CCCCC1)=O | C6H10O
reactant | phosphorus oxychloride | 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6,9-Dichloro- 1,2,3,4-tetrahydroacridine | 12.6 g, 99% | ClC=1C=C2N=C3CCCCC3=C(C2=CC1)Cl | C13H11Cl2N
